US07253286B2
4-(4-(((4-Fluoroanilino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid
After adding methanol (9 ml) and 2N aqueous sodium hydroxide (3 ml) to methyl-4-(4-(((4-fluoroanilino)carbonyl)amino)phenoxy)-7-methoxy-6-quinoline carboxylate (300 mg, 0.65 mmol), the mixture was stirred at room temperature for 2 hours and then at 60° C. for 20 minutes. The reaction solution was cooled to room temperature and 1N hydrochloric acid was added for neutralization, after which methanol (6 ml) and water (6 ml) were added, the mixture was stirred overnight, and the precipitated light brown crystals were filtered out and dried under reduced pressure to obtain the title compound (227 mg, 0.51 mmol, 78.0%).

reactant | methanol | 9 ml | CO | CH4O
reactant | sodium hydroxide | 2N, 3 ml | [OH-].[Na+]
reactant | methyl-4-(4-(((4-fluoroanilino)carbonyl)amino)phenoxy)-7-methoxy-6-quinoline carboxylate | 0.65 mmol, 300 mg | COC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C25H20FN3O5
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | methanol | 6 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
product | 4-(4-(((4-Fluoroanilino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid | 0.51 mmol, 227 mg, 78.0% | FC1=CC=C(NC(=O)NC2=CC=C(OC3=CC=NC4=CC(=C(C=C34)C(=O)O)OC)C=C2)C=C1 | C24H18FN3O5
